US08168794B2
To a solution of (4R)-4-(benzyloxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one (1.0 equiv.) in methanol, at a concentration of 0.1 M, was added 10% palladium on carbon (0.1 eq.). The resultant heterogeneous solution was put under an atmosphere of hydrogen and was stirred for 15 hours. At this time the mixture was filtered through a pad of celite eluting with methanol. The volatiles were removed in vacuo yielding (4R)-4-(hydroxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one (99%). LCMS (m/z): 176.1 (MH+).

reactant | (4R)-4-(benzyloxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one | 1.0 equiv. | C(C1=CC=CC=C1)OC[C@H]1NC(OC1C(CO)C)=O | C14H19NO4
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 0.1 eq. | [Pd] | Pd
product | (4R)-4-(hydroxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one | 99% | OC[C@H]1NC(OC1C(CO)C)=O | C7H13NO4
